US08809352B2
tert-Butyl 4-chloro-2-(trifluoromethyl)-5,6-dihydropyrido[3,4-d]pyrimidine-7(8H)-carboxylate
tert-Butyl 4-hydroxy-2-(trifluoromethyl)-5,6-dihydropyrido[3,4-d]pyrimidine-7(8H)-carboxylate (5.12 g, 16.05 mmol) was combined with triphenylphosphine (8.42 g, 32.1 mmol) and stirred in dichloroethane (160 mL) at ambient temperature for 15 minutes, and then carbon tetrachloride (7.41 g, 48.1 mmol) was added. The reaction was stirred at 70° C. for 3 hours, cooled to room temperature, and concentrated in vacuo. The crude residue was purified by flash chromatography on silica gel (elution gradient from 0% to 3% methanol/DCM) to afford the title compound as a clear oil (5.22 g, 86% yield). MS (ESI) m/e (M−H)−=336.3.

reactant | tert-Butyl 4-hydroxy-2-(trifluoromethyl)-5,6-dihydropyrido[3,4-d]pyrimidine-7(8H)-carboxylate | 16.05 mmol, 5.12 g | OC=1C2=C(N=C(N1)C(F)(F)F)CN(CC2)C(=O)OC(C)(C)C | C13H16F3N3O3
reactant | triphenylphosphine | 32.1 mmol, 8.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 48.1 mmol, 7.41 g | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloroethane | 160 mL | ClC(C)Cl | C2H4Cl2
product | tert-Butyl 4-chloro-2-(trifluoromethyl)-5,6-dihydropyrido[3,4-d]pyrimidine-7(8H)-carboxylate | 5.22 g, 86% yield | ClC=1C2=C(N=C(N1)C(F)(F)F)CN(CC2)C(=O)OC(C)(C)C | C13H15ClF3N3O2
